US06043260
[3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-(1-ethyl-propyl)-amine.
To a mixture of 4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester (prepared as described in Preparation F, 29 mg, 0.078 mmol) and AlCl3 (10 mg,0.078 mmol) in dry THF was added 1 M LiAlH4 in diethyl ether (0.31 ml, 0.31 mmol) at room temperature. After stirring for 10 min, the mixture was heated under reflux for 2 hr. The mixture was quenched with 0.2 ml of water, 0.2 ml of 1N NaOH and 0.4 ml of water and 10 ml of dry THF and stirred for 15 min. The mixture was filtered through Celite® and washed with chloroform. The filtrate was dried over dry sodium sulfate, filtered and concentrated to dryness to give 26 mg (93%) of white solid. 1H NMR (CDC13) δ 6.85(s,2H), 6.08(s,1H), 3.72(d,NH, 1H), 3.35(m,1H), 2.30(s,3H), 2.16(s,3H), 2.13 (s,3H), 2.05(s, 6H), 1.45-1.75(m,4H), 0.98(t,6H) ppm. The corresponding HCl salt was prepared and triturated with diethyl ether to give white solid, mp.212-215° C.

reactant | 4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester | 0.078 mmol, 29 mg | COC(C1=C(N=C(C=C1NC(CC)CC)C)OC1=C(C=C(C=C1C)C)C)=O | C22H30N2O3
reactant | AlCl3 | 0.078 mmol, 10 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | LiAlH4 | 1 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | diethyl ether | 0.31 mmol, 0.31 ml | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | [3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-(1-ethyl-propyl)-amine | 26 mg, 93% | CC=1C(=NC(=CC1NC(CC)CC)C)OC1=C(C=C(C=C1C)C)C | C21H30N2O
